US06242422B1
(3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid Semicarbazone
To a solution of (3S)-3-[N-((1-naphthyloxy)acetyl)leucinyl]amino-4-oxobutanoic acid tert-butyl ester semicarbazone (0.366 g, 0.69 mmol) in CH2Cl2(2.0 mL)-anisole(0.5 mL) at room temperature under nitrogen was added trifluoroacetic acid (2.0 mL). The resulting solution was stirred at room temperature for 3 hrs, evaporated to dryness and chased with toluene-CH2Cl2 (1:1). The residue was triturated with Et2O to give the title compound (0.354 g, 100%) as an off-white solid. TLC(AcOH—MeOH—CH2Cl2; 1:1:20) Rf=0.25. TLC(EtOAc-pyridine-AcOH—H2O; 60:20:5:10) R=0.48.

reactant | (3S)-3-[N-((1-naphthyloxy)acetyl)leucinyl]amino-4-oxobutanoic acid tert-butyl ester semicarbazone | 0.69 mmol, 0.366 g | C(C)(C)(C)OC(C[C@@H](C=O)NC([C@@H](NC(COC1=CC=CC2=CC=CC=C12)=O)CC(C)C)=O)=NNC(=O)N | C27H37N5O6
reactant | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid Semicarbazone | 0.354 g, 100% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=NNC(=O)N)C=O | C23H29N5O6
